US06498159B1
2.59 g of tert-butyl 4-[3-(tert-butoxy)-2-hydroxypropyl]-4-hydroxy-1-piperidinecarboxylate was dissolved in 10 ml dimethylformamide, 400 mg of sodium hydride and 823 mg of benzyl chloride were added thereto, and the mixture was stirred at room temperature for 20 min. The reaction solution was poured into ice water, extracted with ethyl acetate, washed with water and brine, and dried over magnesium sulfate. After filtration, the solvent was evaporated, and the resulting residue was-purified by silica gel column chromatography (hexane/ethyl acetate) to give 2.66 g of tert-butyl 4-(2-(benzyloxy)-3-(tert-butoxy)propyl]-4-hydroxy-1-piperidinecarboxylate.

reactant | tert-butyl 4-[3-(tert-butoxy)-2-hydroxypropyl]-4-hydroxy-1-piperidinecarboxylate | 2.59 g | C(C)(C)(C)OCC(CC1(CCN(CC1)C(=O)OC(C)(C)C)O)O | C17H33NO5
reactant | sodium hydride | 400 mg | [H-].[Na+]
reactant | benzyl chloride | 823 mg | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | tert-butyl 4-(2-(benzyloxy)-3-(tert-butoxy)propyl]-4-hydroxy-1-piperidinecarboxylate | 2.66 g | C(C1=CC=CC=C1)OC(CC1(CCN(CC1)C(=O)OC(C)(C)C)O)COC(C)(C)C | C24H39NO5
